US05273986
A solution composed of 6.2 g of bromomethyl cyclooctyl ketone, 5.6 g of (E)-3-(3-nitrophenyl)-2-propenethioamide and 75 ml of ethyl alcohol was heated to reflux for 1 hr afterwhich it was diluted with 200 ml of ice water and extracted with methylene chloride. The combined extracts were washed with water, dried (MgSO4) and condensed in vacuo to give an oil which was further purified by chromatography over florisil using methylene chloride as the eluant to yield 4.5 g of (E)-4-cyclooctyl-2-[2-(3-nitrophenyl)ethenyl]thiazole; m.p. 64°-65° C. after crystallization from ethyl alcohol.

reactant | bromomethyl cyclooctyl ketone | 6.2 g | C1(CCCCCCC1)C(=O)CBr | C10H17BrO
reactant | (E)-3-(3-nitrophenyl)-2-propenethioamide | 5.6 g | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(N)=S | C9H8N2O2S
solvent | ethyl alcohol | 75 ml | C(C)O | C2H6O
product | (E)-4-cyclooctyl-2-[2-(3-nitrophenyl)ethenyl]thiazole | 4.5 g | C1(CCCCCCC1)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C19H22N2O2S
